US08106043B2
tert-Butyl ethyl(2-(6-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate:
To a stirred solution of tert-butyl 2-(6-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl(ethyl)carbamate (800 mg, 2.371 mmol) in ethanol (8 mL) was added methyl thiophene-2-carbimidothioate hydroiodide (1.014 g, 3.56 mmol). The resulting mixture was stirred at room temperature for 3 hours. The mixture was then diluted with ethyl acetate and washed with saturated sodium carbonate (3×). The organic phase was dried, filtered, concentrated, and then chromatographed in 1:1 hexanes:ethyl acetate giving the desired product (415 mg, 39.2%). 1H NMR (DMSO-d6) δ 7.70 (d, J=3.0 Hz, 1H), 7.58 (d, J=2.4 Hz, 1H), 7.49-7.44 (m, 1H), 7.07 (t, J=4.4 Hz, 1H), 6.84 (d, J=7.8 Hz, 1H), 6.35-6.26 (m, 2H), 6.08 (d, J=7.5 Hz, 1H), 3.64-3.49 (m, 2H), 3.45-3.25 (m, 4H), 3.24-3.12 (m, 2H), 3.01-2.85 (m, 2H), 1.39-1.29 (m, 9H), 1.02 (t, J=6.9 Hz, 3H); ESI-MS (m/z, %): 447 (MH+, 100).

reactant | tert-butyl 2-(6-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl(ethyl)carbamate | 2.371 mmol, 800 mg | NC1=CC2=C(SCCN2CCN(C(OC(C)(C)C)=O)CC)C=C1 | C17H27N3O2S
reactant | methyl thiophene-2-carbimidothioate hydroiodide | 3.56 mmol, 1.014 g | I.S1C(=CC=C1)C(=N)SC
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl ethyl(2-(6-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | C(C)N(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | C22H30N4O2S2
